US09056858B2
Synthesis of 1-(4-fluoro-phenyl)-1H-pyrazolo[3,4-c]pyridine-4-carboxylic acid [1-(3-trifluoromethyl-phenyl)-cyclopropyl]-amide (23)
To a suspension of 1-(4-fluoro-phenyl)-1H-pyrazolo[3,4-c]pyridine-4-carboxylic acid (40.0 mg, 0.156 mmol) in methylene chloride (1 mL) is added oxalyl chloride (14 μL, 0.16 mmol) dropwise. After 10 minutes, a drop of N,N-dimethylformamide is added and the suspension is stirred at room temperature. After 60 minutes, an additional portion of oxalyl chloride (14 μL, 0.16 mmol) and a drop of N,N-dimethylformamide are added. After stirring for 30 minutes, the solvent is removed in vacuo; the residue is suspended in methylene chloride (1 mL) and concentrated in vacuo. The residue is dried under vacuum for 30 minutes, suspended in methylene chloride (1 mL) and added to a solution of 1-(3-trifluoromethyl-phenyl)-cyclopropylamine hydrochloride (74.1 mg, 0.312 mmol) and N,N-diisopropylethylamine (0.080 mL, 0.46 mmol) in methylene chloride (500 μL). After shaking at room temperature for 15 hours, the reaction is quenched with methanol (500 μL) and concentrated. The residue is purified by reverse phase HPLC using a Water BEH column (2.1×50 mm C18 1.7 μM) and a gradient of 10-95% acetonitrile in water containing 0.05% formic acid to afford the title compound.

reactant | 1-(4-fluoro-phenyl)-1H-pyrazolo[3,4-c]pyridine-4-carboxylic acid | 0.156 mmol, 40.0 mg | FC1=CC=C(C=C1)N1N=CC2=C1C=NC=C2C(=O)O | C13H8FN3O2
reactant | oxalyl chloride | 0.16 mmol, 14 μL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | oxalyl chloride | 0.16 mmol, 14 μL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 1-(3-trifluoromethyl-phenyl)-cyclopropylamine hydrochloride | 0.312 mmol, 74.1 mg | Cl.FC(C=1C=C(C=CC1)C1(CC1)N)(F)F
reactant | N,N-diisopropylethylamine | 0.46 mmol, 0.080 mL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | methylene chloride | 1 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 500 μL | C(Cl)Cl | CH2Cl2
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | 1-(4-fluoro-phenyl)-1H-pyrazolo[3,4-c]pyridine-4-carboxylic acid [1-(3-trifluoromethyl-phenyl)-cyclopropyl]-amide | FC(C=1C=C(C=CC1)C1(CC1)NC(=O)C=1C2=C(C=NC1)N(N=C2)C2=CC=C(C=C2)F)(F)F | C23H16F4N4O
